US09102637B2
(a) 5-(6-bromohexanamido)-2-(naphthalen-2-ylamino)thiazole-4-carboxamide
A solution of 6-bromohexanoyl chloride (0.82 mL, 5.28 mmol) in THF (4 mL) was added dropwise to a mixture of 5-amino-2-(naphthalen-2-ylamino)thiazole-4-carboxamide (0.30 g, 1.06 mmol) and pyridine (4 mL) in THF (20 mL) at 0° C., and the mixture was stirred for 16 hrs at rt. The reaction mixture was quenched with ice-water. The resulting solids were collected by filtration and washed with ether and EtOAc to give 0.45 g (92% yield) of the titled compound.

reactant | 6-bromohexanoyl chloride | 5.28 mmol, 0.82 mL | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | 5-amino-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 1.06 mmol, 0.30 g | NC1=C(N=C(S1)NC1=CC2=CC=CC=C2C=C1)C(=O)N | C14H12N4OS
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-(6-bromohexanamido)-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 0.45 g, 92% yield | BrCCCCCC(=O)NC1=C(N=C(S1)NC1=CC2=CC=CC=C2C=C1)C(=O)N | C20H21BrN4O2S
